US07179823B1
A mixture of [1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]methanol (19.00 g), activated manganese dioxide (41.19 g), and tetrahydrofuran (300 ml) was stirred at room temperature overnight. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carbaldehyde (18.56 g, yield: 98%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 100–101° C.

reactant | [1-(4-benzyloxybenzyl)-4-phenyl-3-pyrrolyl]methanol | 19.00 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CO)C=C1 | C25H23NO2
catalyst | manganese dioxide | 41.19 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carbaldehyde | 18.56 g, yield: 98% | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C1 | C25H21NO2
